US08957074B2
Following general reductive alkylation method 1, 7-cyclopentyl-2-[5-((1R,6S)-4-oxo-3,9-diaza-bicyclo[4.2.1]non-3-yl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid methylamide was combined with formaldehyde which gave 7-cyclopentyl-2-[5-((1R,6S)-9-methyl-4-oxo-3,9-diaza-bicyclo[4.2.1]non-3-yl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid methylamide (100 mg) in 98% yield.

reactant | 7-cyclopentyl-2-[5-((1R,6S)-4-oxo-3,9-diaza-bicyclo[4.2.1]non-3-yl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid methylamide | CNC(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2C[C@H]3CC[C@@H](CC2=O)N3)N1C1CCCC1 | C25H30N8O2
reactant | formaldehyde | C=O | CH2O
product | 7-cyclopentyl-2-[5-((1R,6S)-9-methyl-4-oxo-3,9-diaza-bicyclo[4.2.1]non-3-yl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid methylamide | 100 mg, 98% yield | CNC(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2C[C@H]3CC[C@@H](CC2=O)N3C)N1C1CCCC1 | C26H32N8O2
